US08664263B2
Step 3: Method of Synthesizing 4,4′-bis[N-(dibenzofuran-2-yl)-N-phenylamino]stilbene (Abbreviation: FrA2S
The Rf values of the object of the synthesis, 4,4′-dibromostilbene, and (dibenzofuran-2-yl)-phenylamine were respectively 0.37, 0.62, and 0.31, which were found by silica gel thin layer chromatography (TLC) (ethyl acetate:hexane (1:10) as the developing solvent).

reactant | 4,4′-dibromostilbene | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
reactant | (dibenzofuran-2-yl)-phenylamine | C1=C(C=CC=2OC3=C(C21)C=CC=C3)NC3=CC=CC=C3 | C18H13NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4,4′-bis[N-(dibenzofuran-2-yl)-N-phenylamino]stilbene | C1=C(C=CC=2OC3=C(C21)C=CC=C3)N(C3=CC=CC=C3)C3=CC=C(C=C3)C=CC3=CC=C(C=C3)N(C3=CC2=C(OC1=C2C=CC=C1)C=C3)C3=CC=CC=C3 | C50H34N2O2
